Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides) / Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
Right groin pain
 
Major Surgical or Invasive Procedure:
___ thrombin injection to right groin pseudoaneurysm

 
History of Present Illness:
Patient is a ___ year old female status post uterine artery 
fibroid embolization by ___ on ___ who was discharged ___ and 
around midnight awoke with right groin pain. The patient noticed 
that her right groin appeared swollen and felt slightly firm. 
This area of swelling seemed to increase in size. The patient 
also felt pain radiating across her lower abdomen, causing her 
to "double over in pain." She also felt it difficult to 
straighten her right leg without pain. She called the 
interventional radiology physician's assistant, who instructed 
her to come to the emergency department.

In the ED, patient was found by ultrasound to have a right groin 
pseudoaneurysm. Patient was admitted for thrombin injection of 
pseudoaneurysm.

On the floor, patient reported right groin pain of ___. She had 
no other complaints.

Review of sytems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. 
 
Past Medical History:
1. Rheumatoid Arthrits
2. Irritable Bowel Syndrome
3. Bicuspid aortic valve (no TTE in chart).

Past Surgical History
1. Bilateral knee arthroscopy
2. Bilateral ___ Metatarsal surgery
 
Social History:
___
Family History:
Sister with fibroids
 
Physical Exam:
Vitals: T: 98.4 BP:96/60 P: 63 R:18 O2: 98 RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Right Groin: Appears slightly swollen, no erythema, +bruit 
auscultated, +tenderness to palpation.
 
Pertinent Results:
ADMISSION LABS:
___ 05:20AM   WBC-12.6* RBC-3.71* HGB-11.5* HCT-31.8* 
MCV-86 MCH-31.0 MCHC-36.1* RDW-13.6
___ 05:20AM   PLT COUNT-188
___ 05:20AM   CALCIUM-8.1* PHOSPHATE-3.6 MAGNESIUM-1.6
___ 05:20AM   GLUCOSE-78 UREA N-11 CREAT-0.7 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-27 ANION GAP-11
___ 01:34AM   WBC-10.0 RBC-4.44 HGB-12.9 HCT-37.6 MCV-85 
MCH-29.2 MCHC-34.4 RDW-13.4
___ 01:34AM   NEUTS-72.5* ___ MONOS-5.2 EOS-1.9 
BASOS-0.4
___ 01:34AM   PLT COUNT-217

DISCHARGE LABS:

___ RBC Hgb Hct MCV MCH MCHC RDW Plt Ct
10.3 3.91* 11.7* 33.5* 86 29.8 34.8 13.6 179

Glucose UreaN Creat Na K Cl ___ 0.8 137 3.5 ___

IMAGING STUDIES:

Femoral Vascular US R ___:
FINDINGS: Ultrasound evaluation of the right groin demonstrates 
a cystic
structure with swirling flow consistent with pseudoaneurysm. The 
neck
measures approximately 5 mm. The pseudoaneurysm measures 2.1 x 
1.2 cm.
 
IMPRESSION: Findings in the right groin are consistent with 
pseudoaneurysm.
--------------
Femoral Vascular US R ___:
FINDINGS: The right femoral artery pseudoaneurysm is completely 
thrombosed
and demonstrates no flow on color Doppler ultrasound. The right 
common
femoral artery and vein are patent. The superficial femoral 
artery and veins
are also unremarkable.
 
IMPRESSION:
1. Thrombosed right femoral artery pseudoaneurysm.
2. Patent right common and superficial femoral arteries and 
veins.

 
Brief Hospital Course:
This is a ___ year old female with uterine fibroid embolization 
on ___ who presented with right groin pain and swelling 
determined by ultrasound to be a pseudoaneurysm.

1) Pseudoaneurysm: Patient presented with psuedoaneurysm 
confirmed by ultrasound that was secondary to her recent uterine 
fibroid embolization on ___. On ___ patient underwent 
psuedoaneurysm thrombin injection. Ultrasound on ___ indicated 
pseudoaneurysm had been thrombosed with remaining femoral artery 
patent. A repeat US on ___ prior to discharge also demonstrated 
thrombosed right femoral artery 
pseudoaneurysm and patent right common and superficial femoral 
arteries and veins. Following thrombin injection patient 
experienced right groin pain. She also experienced pain in her 
pelvic region thought to be secondary to fibroids responding to 
embolization procedure. Pain initially treated with intravenous 
morphine and transitioned to oral oxycodone at time of 
discharge. She was given a prescription for oxycodone 5mg ___ 
tabs TID as needed for pain. She was instructed not to drive or 
operate heavy machinery while taking this medication. She was 
also prescribed ibuprofen 800 mg PO TID to reduce inflammation 
and instructed to take this medication with food and water. 
Post-procedure follow up to be arranged by ___, 
interventional radiology ___.

2) Constipation: Patient experienced constipation during this 
admission. Last bowel movement day prior to admission. Patient 
reports that she has irritable bowel syndrome with constipation 
at baseline. Likely constipation worsened due to patient taking 
narcotics for pain control. Patient started on bowel regimen 
including colace, senna and lactulose. Patient was discharged 
with a prescription for oral lactulose. She will contact her 
primary care physician if she is unable to have a bowel movement 
within ___ hours of discharge.  

3)Rheumatoid Arthritis:Stable during this admission. Patient was 
continued on outpatient regimen of prednisone and folate. 
Patient had taken weekly dose of methotrexate prior to 
admission.

 
Medications on Admission:
1. Prednisone 5mg QDAY
2. Folate 1 mg QDAY
3. Methotrexate 10mg Q wk
4. Culturale (probiotic) daily
 
Discharge Medications:
1. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Ibuprofen 800 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours for 7 days.
Disp:*21 Tablet(s)* Refills:*0*
4. Methotrexate Sodium 10 mg Tablet Sig: One (1) Tablet PO once 
a week.  
5. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  
6. Senna 8.6 mg Capsule Sig: One (1) Capsule PO once a day as 
needed for constipation.  
7. Lactulose 10 gram/15 mL Solution Sig: Two (2)  PO twice a 
day.
Disp:*qs 1* Refills:*0*
8. Oxycodone 5 mg Tablet Sig: ___ Tablets PO three times a day 
as needed for pain.
Disp:*18 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Right groin pseudoaneurysm
Secondary: Rheumatoid arthritis

 
Discharge Condition:
good

 
Discharge Instructions:
You came to the emergency department because you were having 
severe right sided groin pain. In the ED it was determined that 
you had a right sided pseudoaneurysm that was likely caused by 
your recent uterine artery embolization. Interventional 
radiology performed a thrombin injection into your 
pseudoaneurysm. Following this procedure you had considerable 
pain at both your right groin site and in your pelvic region. 
This pelvic pain is likely from the regression of your fibroids. 
We treated your pain with IV pain medication and 
anti-inflammatory medication. Prior to discharge we transitioned 
you to oral pain medication which appropriately addressed your 
pain.

You had constipation during your admission though you do have 
baseline irritable bowel syndrome with constipation. We had you 
on a bowel regimen consisting of senna, colace, lactulose and 
biscadoyl suppository. You did not have a bowel movement during 
your hospitalization which we attribute to the fact that you 
have constipation at baseline, received narcotics from pain 
control, have not physically been moving since your procedure 
and have consumed a limited diet. We are discharging you with 
senna, colace and lactulose. If you do not have a bowel movement 
in the next ___ hrs you could try using a Fleet enema, which 
you noted you use at home sometimes, or contact your primary 
care physician.

You were started on the following new medications:
**Ibuprofen 800 mg by mouth every 8 hours: This medication 
reduces inflammation and should help with your pain. Always take 
this medication with food and water since it can cause stomach 
irritation.
**Oxycodone 5mg-10 mg by mouth three times per day as needed for 
pain. This medication is for pain control. It can cause 
constipation so you may need to take a stool softener Do not 
drive or operate heavy machinery when taking this medication.
**Colace 100 mg by mouth twice daily as needed for constipation
**Senna 1 tab daily as needed for constipation
**Lactulose 30mL by mouth twice a day as needed for constipation

Follow up as per below.

If you develop increasing pain, fevers, chills, night sweats, 
increased swelling in your right groin, chest pain or shortness 
of breath please call your primary care provider or go to the 
emergency department for evaluation.
 
Followup Instructions:
___